US04906634
5-(2,6-Dichloro-4-nitrophenoxy)-N-methyl-N-(phenylmethyl)pentanamine hydrochloride
React 1-(5-bromopentyloxy)-2,6-dichloro-4-nitrobenzene with methyl(phenylmethyl)amine or benzyl(methyl)amine in a manner similar to Preparation 41 to obtain the title compound.

reactant | 1-(5-bromopentyloxy)-2,6-dichloro-4-nitrobenzene | BrCCCCCOC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C11H12BrCl2NO3
reactant | methyl(phenylmethyl)amine | CNCC1=CC=CC=C1 | C8H11N
reactant | benzyl(methyl)amine | C(C1=CC=CC=C1)NC | C8H11N
product | 5-(2,6-Dichloro-4-nitrophenoxy)-N-methyl-N-(phenylmethyl)pentanamine hydrochloride | Cl.ClC1=C(OCCCCCN(CC2=CC=CC=C2)C)C(=CC(=C1)[N+](=O)[O-])Cl | InChI=1S/C19H22Cl2N2O3.ClH/c1-22(14-15-8-4-2-5-9-15)10-6-3-7-11-26-19-17(20)12-16(23(24)25)13-18(19)21;/h2,4-5,8-9,12-13H,3,6-7,10-11,14H2,1H3;1H
